US09416137B2
To a solution of (4R,4aR,7aR,12bS)-3-(cyclobutylmethyl)-7-oxo-2,3,4,4a,5,6,7,7a-octahydro-1H-4,12-methanobenzofuro[3,2-e]isoquinoline-9-carbonitrile (24 g, 68.9 mmol) in tert-butanol (240 mL) was added KOH (2.1 g, 37.1 mmol). The reaction was heated to 100° C. for 15 minutes. The reaction was allowed to cool to room temperature and concentrated to 50% volume. Diluted with water and extracted with ethyl acetate twice. The organic phases were combined, washed with to sodium hydrogen carbonate solution and brine and dried over MgSO4 and concentrated under reduced pressure. The residue was purified by silica chromatography eluted with 4% methanol in dichloromethane to give to give (4R,4aR,7aR,12bS)-3-(cyclobutylmethyl)-7-oxo-2,3,4,4a,5,6,7,7a-octahydro-1H-4,12-methanobenzofuro[3,2-e]isoquinoline-9-carboxamide (14.2 g, 89% pure LCMS, 56% yield); [M+H]+ 367.2.

reactant | (4R,4aR,7aR,12bS)-3-(cyclobutylmethyl)-7-oxo-2,3,4,4a,5,6,7,7a-octahydro-1H-4,12-methanobenzofuro[3,2-e]isoquinoline-9-carbonitrile | 68.9 mmol, 24 g | C1(CCC1)CN1[C@H]2[C@@H]3CCC([C@H]4[C@]3(CC1)C1=C(O4)C(=CC=C1C2)C#N)=O | C22H24N2O2
reactant | KOH | 37.1 mmol, 2.1 g | [OH-].[K+]
solvent | tert-butanol | 240 mL | C(C)(C)(C)O | C4H10O
product | (4R,4aR,7aR,12bS)-3-(cyclobutylmethyl)-7-oxo-2,3,4,4a,5,6,7,7a-octahydro-1H-4,12-methanobenzofuro[3,2-e]isoquinoline-9-carboxamide | 14.2 g, 56% yield | C1(CCC1)CN1[C@H]2[C@@H]3CCC([C@H]4[C@]3(CC1)C1=C(O4)C(=CC=C1C2)C(=O)N)=O | C22H26N2O3
